US09108903B2
Crude 4,5-dichloro-2-fluoro-benzaldehyde, 4-fluoro-2-methoxy-phenol (2.31 mL, 20.23 mmol) and K2CO3 (5.59 g, 40.46 mmol) were combined in DMF (100 mL) and heated for ˜30 min at 70° C., then at 55° C. overnight. The reaction was cooled, diluted with water (500 mL) and extracted with diethyl ether. The ether layer was dried over Na2SO4, filtered, and concentrated. Silica gel chromatography using a gradient of ethyl acetate/hexane (0-40%) provided 4,5-dichloro-2-(4-fluoro-2-methoxy-phenoxy)benzaldehyde (3.30 g, 51%) as a crystalline white solid. 1H NMR (400 MHz, DMSO-d6) δ 10.39 (s, 1H), 7.93 (s, 1H), 7.35 (dd, J=8.8, 5.8 Hz, 1H), 7.19 (dd, J=10.7, 2.9 Hz, 1H), 6.92-6.85 (m, 2H), 3.78 (s, 3H) ppm.

reactant | 4,5-dichloro-2-fluoro-benzaldehyde | ClC1=CC(=C(C=O)C=C1Cl)F | C7H3Cl2FO
reactant | 4-fluoro-2-methoxy-phenol | 20.23 mmol, 2.31 mL | FC1=CC(=C(C=C1)O)OC | C7H7FO2
reactant | K2CO3 | 40.46 mmol, 5.59 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | 4,5-dichloro-2-(4-fluoro-2-methoxy-phenoxy)benzaldehyde | 3.30 g, 51% | ClC1=CC(=C(C=O)C=C1Cl)OC1=C(C=C(C=C1)F)OC | C14H9Cl2FO3
